US06210603B1
In a mixture of 48.9 g (248.8 imol) of (4-propylphenyl)acetylchloride, 2.6 g (7.5 mmol) of tris(2,4-pentanedionata)iron (III), and 200 ml of toluene was added dropwise a solution of a Grignard reagent prepared from 56.6 g (323.5 mmol) of 1-bromo-3-fluorobenzene and 8.2 g (335.9 mmol) of Mg in 300 ml of tetrahydrofuran (THF) while maintaining them at a temperature lower than −60° C. After finishing of the dropping, they were stirred at the same temperature for 3 hours. Subsequently, the reaction mixture was raised up to room temperature, 200 ml of a diluted hydrochloric acid was added dropwise thereto, and then extracted with 150 ml of heptane. The organic layer thus obtained was washed with an aqueous sodium bicarbonate solution thrice and with water thrice, and then dried over anhydrous magnesium sulfate. After the solvent was distilled off under a reduced pressure, the residue was subjected to silica gel column chromatography (eluent: toluene/heptane=8/2) to obtain 43.3 g of a crude 3-fluoro-4′-propyldeoxybenzoin. This product was recrystallized from methanol to obtain 28.5 g of the subject compound. (Yield: 44.8%)

reactant | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
reactant | 1-bromo-3-fluorobenzene | 323.5 mmol, 56.6 g | BrC1=CC(=CC=C1)F | C6H4BrF
reactant | hydrochloric acid | 200 ml | Cl | ClH
reactant | (4-propylphenyl)acetylchloride | 48.9 g | C(CC)C1=CC=C(C=C1)CC(=O)Cl | C11H13ClO
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 3-fluoro-4′-propyldeoxybenzoin | 43.3 g | FC=1C=C(C=CC1)C(=O)CC1=CC=C(C=C1)CCC | C17H17FO
